US06479490B2
A mixture of 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (100 mg, 0.32 mmol) and 2,2-dimethyldioxolane-4-carboxaldehyde (0.38 mmol) (prepared as described in Kumont, von R., et al. Helv. Chim. Acta., 66, 814, (1983)) in dichloromethane (12 mL) was stirred at room temperature for 10 min., and then Na(OAc)3BH (120 mg, 0.57 mmol) was added. The reaction mixture was stirred overnight and then partition between EtOAc and H20. The organic layer was separated, washed with water and concentrated. The crude product was purified by preparatory TLC with 3/1 hexanes/EtOAc to give 3-(1-methylindol-3-yl)-4-[3-(2,2-dimethyldioxolan-4-ylmethylamino)phenyl]-1H-pyrrole-2,5-dione (32.6 mg, 24%).

reactant | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 0.32 mmol, 100 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
reactant | 2,2-dimethyldioxolane-4-carboxaldehyde | 0.38 mmol | CC1(OCC(O1)C=O)C | C6H10O3
reactant | Na(OAc)3BH | 0.57 mmol, 120 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 3-(1-methylindol-3-yl)-4-[3-(2,2-dimethyldioxolan-4-ylmethylamino)phenyl]-1H-pyrrole-2,5-dione | 32.6 mg, 24% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)NCC1OC(OC1)(C)C)=O)=O | C25H25N3O4
